US05763450
272 mg of monomethyl malonate potassium salt and 0.41 ml of trimethylsilyl chloride are stirred at room temperature in 5 ml of acetonitrile for 4 hrs. Subsequently, the mixture is cooled to 0° and 0.75 ml of diaza-bicycloundecane is added. The mixture is stirred at room temperature for 30 min. Thereafter, 0.5 g of 3-iodo-4,5-dimethoxy-benzoyl chloride is added portionwise thereto and the mixture is stirred at room temperature for 19 hrs. The mixture is brought to about pH4 with 10 percent citric acid and extracted three times with ethyl acetate. Chromatography on silica gel with ethyl acetate/hexane 1:1 gives 126 mg of ethyl 3-(3-iodo-4,5-dimethoxy-phenyl)-3-oxo-propionate as a yellowish oil (Keto/Enol mixture). Yield: 26%. Mass spectrum: peaks inter alia at m/e: 378 (M+, 40%); 291 (100%).

reactant | monomethyl malonate potassium salt | 272 mg | [K+].C(CC(=O)[O-])(=O)OC
reactant | trimethylsilyl chloride | 0.41 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | diaza-bicycloundecane | 0.75 ml | N1(NCCCCCCCCC1)C1CCCCCCCCCC1 | C20H40N2
reactant | 3-iodo-4,5-dimethoxy-benzoyl chloride | 0.5 g | IC=1C=C(C(=O)Cl)C=C(C1OC)OC | C9H8ClIO3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | ethyl 3-(3-iodo-4,5-dimethoxy-phenyl)-3-oxo-propionate | 126 mg, Yield: 26% | IC=1C=C(C=C(C1OC)OC)C(CC(=O)OCC)=O | C13H15IO5
